US07569536B2
Sodium hydride (60% (w/w) oil mixture) (200 mg, 0.500 mmol) was added at 0° C. to an N,N-dimethylformamide (DMF; 0.5 ml) solution of 5 N-[2-(1-piperidinyl)-5-(trifluoromethyl)phenyl]isonicotinamide (SRPIN-1, GIF-0340) (121 mg, 0.496 mmol), obtained as described in Referential example 1-3. The resulting mixture was stirred for one hour, and an N,N-dimethylformamide (DMF) solution of methyl iodide (0.8 M, 0.62 ml, 0.496 mmol) was added thereto at 0° C. The resulting mixture was stirred for three hours. Water was added to the mixture, and the resulting mixture was extracted three times with ethyl acetate. The obtained organic layer was washed with a saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (12 g, hexane/ethyl acetate=1/1). Thus, N-methyl-N-[2-(1-piperidinyl)-5-(trifluoromethyl)phenyl]isonicotinamide (GIF-0614) (65.9 mg, 51.5%) was yielded as a colorless solid.

reactant | Sodium hydride | 0.500 mmol, 200 mg | [H-].[Na+]
reactant | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
reactant | N-[2-(1-piperidinyl)-5-(trifluoromethyl)phenyl]isonicotinamide | 0.496 mmol, 121 mg | N1(CCCCC1)C1=C(C=C(C=C1)C(F)(F)F)NC(C1=CC=NC=C1)=O | C18H18F3N3O
reactant | methyl iodide | 0.496 mmol, 0.8 M, 0.62 ml | CI | CH3I
solvent | Water | O | H2O
product | N-methyl-N-[2-(1-piperidinyl)-5-(trifluoromethyl)phenyl]isonicotinamide | 65.9 mg, 51.5% | CN(C(C1=CC=NC=C1)=O)C1=C(C=CC(=C1)C(F)(F)F)N1CCCCC1 | C19H20F3N3O
